US07465731B2
A diisobutylaluminium hydride in toluene solution (15.7 ml) was dropwise added to a solution of ethyl 6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-chloronicotinate (4.7 g) in toluene (50 ml) with stirring at −30˜−50° C. under atmospheric pressure of nitrogen, and the reaction mixture was stirred at −20˜−40° C. for 2 hours. A MeOH (5 ml) was added to a reaction mixture at −40° C. and saturated sodium potassium tartrate aqueous solution (10 ml) and MgSO4 (10 g) and the resultant mixture was stirred at ambient temperature for 20 minutes. The reaction mixture was filtrated and the filtrate was dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt-MeOH (9:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give (6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-chloro-3-pyridyl)methanol (1.87 g).

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-chloronicotinate | 4.7 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=NC=C(C(=O)OCC)C=C1Cl | C19H22ClN3O2
reactant | sodium potassium tartrate | 10 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | MgSO4 | 10 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | toluene | 15.7 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 5 ml | CO | CH4O
product | (6-{[(3R)-1-benzyl-3-pyrrolidinyl]amino}-5-chloro-3-pyridyl)methanol | 1.87 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=C(C=C(C=N1)CO)Cl | C17H20ClN3O
